US07432289B2
5′-(3-Furoylamino)-2′-methyl-1,1′-biphenyl-4-carboxylic acid (30 mg, 0.093 mmol), 2-hydroxyethylamine (5.7 mg, 0.093 mmol), HATU (35.5 mg, 0.093 mmol), HOBT (12.6 mg, 0.093 mmol) and DIPEA (48 μl, 0.28 mmol) in DMF (2 ml) were stirred at room temperature for 18 h. The reaction was diluted with ethyl acetate (150 ml), washed with water (2×30 ml) and dried (magnesium sulphate). The solvent was evaporated under vacuum and the residue chromatographed on a silica flash column eluting with DCM/methanol/triethylamine (96:2:2). Concentration of the product fractions under vacuum gave N-(4′-{[(2-hydroxyethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-3-furamide (31.2 mg, 92%). NMR; δH [2H6]—DMSO 9.91,(1H, s), 8.49,(1H, t), 8.35,(1H, s), 7.92,(2H, d), 7.78,(1H, t), 7.67,(1H, dd), 7.59,(1H, d), 7.43,(2H, d), 7.27,(1H, d), 6.97,(1H, m), 4.73,(1H, t), 3.52,(2H, q), 3.35,(2H, m), 2.19,(3H, s). LCMS: retention time 2.72 min, MH+365.

reactant | 5′-(3-Furoylamino)-2′-methyl-1,1′-biphenyl-4-carboxylic acid | 0.093 mmol, 30 mg | O1C=C(C=C1)C(=O)NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)O)C | C19H15NO4
reactant | 2-hydroxyethylamine | 0.093 mmol, 5.7 mg | OCCN | C2H7NO
reactant | HATU | 0.093 mmol, 35.5 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBT | 0.093 mmol, 12.6 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.28 mmol, 48 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | N-(4′-{[(2-hydroxyethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-3-furamide | 31.2 mg, 92% | OCCNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(=O)C1=COC=C1 | C21H20N2O4
